### PR TITLE
lemmas non-positive sequences

### PR DESCRIPTION
**Pull request by affeldt-aist**
##### Motivation for this change

Versions of already existing lemmas to deal with sequences of non-positive numbers,
motivated by their application when dealing with signed measures.

##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`
~~- [ ] added corresponding documentation in the headers~~

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-following,-reviewing-and-playing-with-a-PR#checklist-for-reviewing-a-pr) and put a milestone if possible.

### CODE REVIEW

File: theories/classical_sets.v [hunk 1]
```diff
@@ -662,6 +662,9 @@ Proof. by rewrite eqEsubset propeqE; split=> [A0|[]//]; split. Qed.
 Lemma subTset A : (setT `<=` A) = (A = setT).
 Proof. by rewrite eqEsubset propeqE; split=> [|[]]. Qed.
 
+Lemma set1_subset x A : ([set x] `<=` A) = (x \in A).
```
Comment (CohenCyril) [inline theories/classical_sets.v:665]: `sub1set`

**Review by zstone1 — COMMENTED** [review]
Two small comments. Otherwise looks good to me.

**Review by zstone1 — APPROVED** [review]
Changes look good to me. Deprecating the old names makes sense.

File: theories/sequences.v [hunk 2]
```diff
@@ -1581,66 +1582,139 @@ Lemma ereal_nondecreasing_series (R : realDomainType) (u_ : (\bar R)^nat)
...
 Proof.
 move/ereal_nondecreasing_series/ereal_nondecreasing_cvg/cvg_lim => -> //.
 by apply: ereal_sup_ub; exists k.
 Qed.
 
-Lemma is_cvg_ereal_nneg_natsum_cond (R : realType) m (u_ : (\bar R)^nat)
-  (P : pred nat) : (forall n, (m <= n)%N -> P n -> 0 <= u_ n) ->
-  cvg (fun n => \sum_(m <= i < n | P i) u_ i).
+Lemma nneseries_pinfty (R : realType) (u_ : (\bar R)^nat)
+  (P : pred nat) k : (forall n, P n -> 0 <= u_ n) -> P k ->
```
Comment (CohenCyril) [inline theories/sequences.v:1627]: Stronger with
```suggestion
  (P : pred nat) k : (forall n, P n -> u_ n != -oo) -> P k ->
```
isn't it?

File: theories/constructive_ereal.v [hunk 3]
```diff
@@ -488,12 +488,24 @@ Proof. by rewrite lee_fin ler0N1. Qed.
...
+Lemma leeN10 : - 1%E <= 0 :> \bar R.
+Proof. by rewrite lee_fin lerN10. Qed.
+
 Lemma fine_ge0 x : 0 <= x -> (0 <= fine x)%R.
 Proof. by case: x. Qed.
 
 Lemma fine_gt0 x : 0 < x < +oo -> (0 < fine x)%R.
 Proof. by move: x => [x| |] //=; rewrite ?ltxx ?andbF// lte_fin => /andP[]. Qed.
 
+Lemma fine_lt0 x : -oo < x < 0 -> (fine x < 0)%R.
```
Comment (CohenCyril) [inline theories/constructive_ereal.v:503]:
```suggestion
Lemma fine_lt0 x : (fine x < 0)%R = (-oo < x < 0).
```
?

Comment (affeldt-aist) [reply theories/constructive_ereal.v:503]: Seems to require realDomainType. I thus added a lemma.

**Review by CohenCyril — APPROVED** [review]
